Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lexapro / primidone
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w gait instability, tremor, presenting from ___ for 
evaluation of small frontal subdural bleed. Patient tripped and 
fell today while attempted to sit on her couch to eat dinner. 
Landed on rear and unsure if hit head. Was not using her walker. 
No LOC. Pressed LifeAlert. She reports that he has had frequent 
falls lately, as much as 4 a month. However, this previous week, 
she had as many as 4 falls. She cannot pick herself up from the 
ground and requires help from ___ Fire Department. She does 
not think that she looses consciousness or feel light headed 
before falls. She reports 'staying with it' at all times. 

After the most recent fall, ___ Fire helped her stand up. No 
pain anywhere. No headache. No neck pain. She had urinary 
incontinence when she fell. Denies fevers, chills, cp, sob. 

Notably, the falls are occurring in the context of ___ years of 
very pronounced tremors that make it very difficult for her to 
steady herself. Describes onset of tremor possibly following 
treatment with Depakote. Formerly worked up for ___ and 
started on antiparkinsonian drugs, with no improvement in 
symptoms. 

At OSH, CK 1377. cr. 1.26. Found to have a UTI and given levo at 
OSH.
CT C-spine: normal
CXR: normal

In the ED, initial VS were 97.5 92 161/66 16 97RA  
Exam notable for A+Ox3, ___ strength, sensation preserved, 
tertiary exam normal
Labs showed Cr 1.0, BUN 24, bicarb 20, Cl 110, CK 809, Hb 10.4 
Outside non-contrast head CT showed an extremely small subdural 
hematoma.  
Received 1000mL NS
Transfer VS were 98.4 66 137/53 16 98RA
Neurosurgery was consulted and felt that they did not need to do 
anything else since the ___ was very small and the patient was 
neurologically intact. Instead, they recommended that the 
patient be evaluated by Physical Therapy prior to discharge 
home. Decision was made to admit to medicine for further 
management.
  
On arrival to the floor, the patient appeared to be extremely 
anxious. She denies any acute symptoms other than anxiety and 
claustrophobia. 
 
Past Medical History:
- Chronic Fatigue Syndrome

 
Social History:
___
Family History:
- Father died of cardiac complications of rheumatic fever
- mother died of colon cancer 
 
Physical Exam:
ADMISSION
=========
VS: 99.0 119/78 74 18 98%RA
GENERAL: Very pleasant old lady who is in NAD. However, she 
appears extremely anxious and shaking. She has a baseline tremor 
that gets worse when she gets anxious. She is unable to sit up 
in bed on her own. 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing. 2+ ___ edema bilaterally, 
moving all 4 extremities with purpose. ___ strength in all 4 
limbs and good sensation globally. Hearing reduced on the right 
ear. 
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE
=========
VS: 98.6 142/59 (150 max) 78 18 100RA
GENERAL: Very pleasant old lady who is in NAD. Visibly 
tremulous, but improved from prior.  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing. 2+ ___ edema bilaterally, 
moving all 4 extremities with purpose. 
PULSES: 2+ DP pulses bilaterally  
NEURO: A+Ox1, fnf fair, RAMs fair. Mild increased tone 
appreciated in upper extremities. Tremor exacerbated as patient 
becomes more aware of tests
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

 
Pertinent Results:
ADMISSION
=========
___ 06:20AM BLOOD WBC-7.2 RBC-3.41* Hgb-10.4* Hct-33.5* 
MCV-98 MCH-30.5 MCHC-31.0* RDW-13.2 RDWSD-47.2* Plt ___
___ 06:20AM BLOOD Neuts-76.6* Lymphs-14.3* Monos-8.3 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-5.48 AbsLymp-1.02* 
AbsMono-0.59 AbsEos-0.01* AbsBaso-0.03
___ 06:20AM BLOOD Glucose-108* UreaN-24* Creat-1.0 Na-142 
K-3.5 Cl-110* HCO3-20* AnGap-16
___ 06:20AM BLOOD CK(CPK)-809*
___ 06:31AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.9

PERTINENT
=========
___ 06:31AM BLOOD CK(CPK)-434*
___ 06:31AM BLOOD VitB12-971* Folate-13.4
___ 06:31AM BLOOD TSH-3.5
RPR w/check for Prozone (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

DISCHARGE
=========
___ 06:45AM BLOOD WBC-4.4 RBC-3.39* Hgb-10.2* Hct-31.6* 
MCV-93 MCH-30.1 MCHC-32.3 RDW-13.2 RDWSD-45.0 Plt ___
___ 06:45AM BLOOD Glucose-100 UreaN-13 Creat-0.8 Na-142 
K-3.7 Cl-108 HCO3-25 AnGap-13
___ 06:45AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.1

MICROBIOLOGY
============
URINE CULTURE  Final                                             
___       
         >100,000 org/ml ESCHERICHIA COLI

     1.  ESCHERICHIA COLI
                       Target Route Dose               RX     AB 
  Cost M.I.C.    IQ    
                       ------ ----- ------------------ ------ -- 
------ --------- ------
       AMPICILLIN                                      S         
       <=2             
       AMOX/CLAV                                       S         
       <=2             
       CEFAZOLIN                                       S         
       <=4             
       CEFTAZIDIME                                     S         
       <=1             
       CEFTRIAXONE                                     S         
       <=1             
       CIPROFLOXACIN                                   S         
       <=0.25          
       ERTAPENEM                                       S         
       <=0.5           
       GENTAMICIN                                      S         
       <=1             
       IMIPENEM                                        S         
       0.5             
       LEVOFLOXACIN                                    S         
       <=0.12          
       NITROFURANTOIN                                  S         
       <=16            
       PIP/TAZ                                         S         
       <=4             
       TOBRAMYCIN                                      S         
       <=1             
       TRIM/SULFA                                      S         
       <=20       

IMAGING
=======
OSH CT Head: Small subdural hematoma

 
Brief Hospital Course:
Ms. ___ is an ___ with gait instability and tremor, presenting 
from ___ for evaluation of small frontal subdural 
hemorrhage.  

# Fall: Patient very unsteady on her feet, and has a very 
pronounced tremor and mild weakness in her upper extremities; 
these findings represent by far her greatest risk factor for 
falls. She uses a walker intermittently at home at baseline, and 
has multiple risk factors within her home which increase her 
risk for falls.  Likely contribution from UTI as well. Per ___, 
Pt not safe for discharge home and should go to rehab. Seen by 
OT, who recommend outpatient management while at rehab. UTI 
treated as below. Patent has been given contact information for 
geriatrics at ___ would recommend setting up close 
follow up with them on discharge from rehab. Patient should also 
be set up for home ___ with home safety evaluation.  

# Tremor: Patient has a very pronounced tremor of the upper 
limbs. She reported that the tremor started ___ years when she 
started lexapro to help her with anxiety. The tremor has gotten 
worse since, and now she cannot even type on the computer or 
sign her checks. Tremor is present at rest, but becomes 
extremely severe with active movement. Some increased upper 
extremity tone. TSH, B12, folate WNL, RPR negative. She was seen 
by multiple neurologists in the past, and was last being 
followed by Dr. ___ at ___. She had ___ work 
up that was negative and a trial for Levodopa/Carbidopa that 
gave her no relief but severe side effects.  At this point, the 
etiology is unclear but differential includes anxiety, 
cerebellar abnormalities, atypical ___ presentation, 
action tremor. Patient is scheduled for follow-up with Dr. 
___.  

# Urinary Tract Infection: UA positive at OSH, with large 
bacteria, many WBCs, nitrite/leuk esterase positive. OSH 
cultures showing pan-sensitive E.Coli. Treated with Cipro, plan 
for 7 day total course (___). 

# Delirium: Patient was found to be delirious on ___ and ___ 
in the AM. Likely related to ___ hospital delirium. Improved 
over the course of the day. Delirium resolved over course of the 
hospitalization, and she was reasonably well oriented on 
discharge; possibly related to treatment of UTI as above.

# Anxiety: Patient was extremely anxious and claustrophobic on 
admission. Seen by Psych, recommend trazodone. TSH, B12, folate 
WNL, RPR negative. Treated with PRN trazodone

# SDH: Seen by neurosurgery, no neurosurgical intervention 
warranted, nor any follow up as any subdural blood is extremely 
small.

# Hypertension: Patient was noted to be hypertensive to 160s 
systolic on admission, which persisted for the first day of her 
hospitalization. She was started on lisinopril 2.5mg, with good 
response in blood pressures. She should continue on lisinopril 
moving forward. 

# Heartburn: Takes Calcium Carbonate 500 mg PO QID at home

TRANSITIONAL ISSUES:
- She would prefer to follow up with geriatric PCP and this 
should be arranged at time of discharge from rehab.
- Follow up with neurologist at scheduled visit
- Delirium precautions while at rehab
- Ongoing treatment of UTI with cipro through ___
- Monitoring BP and ongoing need for treatment with lisinopril. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO QID:PRN heartburn 

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H 
2. Docusate Sodium 100 mg PO BID 
3. Lisinopril 2.5 mg PO DAILY 
4. Senna 8.6 mg PO BID:PRN constipation 
5. TraZODone 12.5 mg PO DAILY:PRN anxiety 
6. Calcium Carbonate 500 mg PO QID:PRN heartburn 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Urinary tract infection
Subdural hemorrhage
Fall

SECONDARY DIAGNOSIS:
Action tremor

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital after a fall with a small amount of 
bleeding in the brain. You were evaluated by the neurosurgeons 
who determined that no dangerous head injury had occurred. You 
were also found to have a urinary tract infection which was 
treated with antibiotics. 

After discharge, please follow up with your physicians as 
instructed.

We wish you the best,
Your ___ team
 
Followup Instructions:
___